US07838524B2
3-(3-tert-Butyl-5-{3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-N-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-benzamide
A mixture of 3-(3-tert-butyl-5-{3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-benzoic acid (300.0 mg, 0.60 mmol), 1-(2,2-dimethyl-1,3-dioxolan-4-yl)methanamine (93.8 mg, 0.71 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (136.6 mg, 0.71 mmol), 4-dimethylaminopyridine (87.3 mg, 0.71 mmol) and 1-hydroxybenzotriazole (96.6 mg, 0.71 mmol) in THF and DCM was stirred at room temperature overnight. Ethyl acetate and water were added, and the organic phase was washed with brine, dried over MgSO4. and evaporated at reduced pressure. HPLC purification (10-90% aqueous acetonitrile) afforded pure title compound (270 mg, 73%). 1H-NMR (DMSO-d6) δ 8.93 (s, 1H), 8.88 (s, 1H), 8.72 (t, J=6.07.66 (m, 2H), 8.30 (d, J=5.7 Hz), 8.13 (t, J=9.0 Hz, 1H), 7.98 (s, 1H), 7.89 (d, J=9.0 Hz, 1H), 7.69 (m, 2H), 7.19 (d, J=14.7 Hz, 1H), 6.96 (d, J=10.2 Hz, 1H), 6.76 (s, 1H), 6.72 (d, J=5.7 Hz, 1H), 6.41 (s, 1H), 3.95 (t, J=6.3 Hz, 1H), 3.68 (t, J=6.0 Hz, 1H) 3.28-3.45 (m, 2H), 1.314 (s, 3H), 1.27 (s, 9H), 1.22 (s, 3H); MS LC-MS [M+H]+=617.3, RT=2.54 min.

reactant | 3-(3-tert-butyl-5-{3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-benzoic acid | 0.60 mmol, 300.0 mg | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C)F)C=1C=C(C(=O)O)C=CC1 | C27H26FN5O4
reactant | 1-(2,2-dimethyl-1,3-dioxolan-4-yl)methanamine | 0.71 mmol, 93.8 mg | CC1(OCC(O1)CN)C | C6H13NO2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.71 mmol, 136.6 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.71 mmol, 96.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
catalyst | 4-dimethylaminopyridine | 0.71 mmol, 87.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-tert-Butyl-5-{3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl]-ureido}-pyrazol-1-yl)-N-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-benzamide | 270 mg, 73% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C)F)C=1C=C(C(=O)NCC2OC(OC2)(C)C)C=CC1 | C33H37FN6O5
